US08080541B2
Intermediate AL: Butyl-[1-(2-cyclopropyl-4,6-bis-trifluoromethyl-phenyl)-methylidene]-amine
Cyclopropylbromide (3.84 g, 32 mmol) was added to magnesium (771 mg, 32 mmol) in 20 mL diethylether and refluxed for 10 min. Manganese(II) chloride (160 mg, 1.27 mmol) and butyl-[1-(2-fluoro-4,6-bis-trifluoromethyl-phenyl)-methylidene]-amine (intermediate AK, 4 g, 13 mmol) was added. The reaction mixture was refluxed for 2 h. The reaction mixture was quenched with 8 mL water and filtered through dicalite. The organic phase was separated and dried on sodium sulfate, filtered and evaporated. The crude material, brown oil (3.54 g, 82%) was used without further purification.

reactant | Cyclopropylbromide | 32 mmol, 3.84 g | C1(CC1)Br | C3H5Br
reactant | magnesium | 32 mmol, 771 mg | [Mg] | Mg
reactant | butyl-[1-(2-fluoro-4,6-bis-trifluoromethyl-phenyl)-methylidene]-amine | 13 mmol, 4 g | C(CCC)N=CC1=C(C=C(C=C1C(F)(F)F)C(F)(F)F)F | C13H12F7N
solvent | diethylether | 20 mL | C(C)OCC | C4H10O
catalyst | Manganese(II) chloride | 1.27 mmol, 160 mg | [Cl-].[Mn+2].[Cl-]
product | Butyl-[1-(2-cyclopropyl-4,6-bis-trifluoromethyl-phenyl)-methylidene]-amine | C(CCC)N=CC1=C(C=C(C=C1C(F)(F)F)C(F)(F)F)C1CC1 | C16H17F6N
